US04783467
2-Amino-5-iodo-3-methylbenzaldehyde
Freshly dried manganese dioxide (3.3 g) was added to a solution of 2-amino-5-iodo-3-methylbenzyl alcohol (2.0 g) in dichloromethane (50 cm3) under nitrogen and the mixture was stirred for 3 days at room temperature. The mixture was filtered, the filtrate evaporated to dryness, and the solid residue was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]) eluting with dichloromethane. Combination and evaporation of appropriate fractions afforded the title compound, m.p. 134° (1.6 g).

reactant | 2-amino-5-iodo-3-methylbenzyl alcohol | 2.0 g | NC1=C(CO)C=C(C=C1C)I | C8H10INO
solvent | dichloromethane | 50 cm3 | ClCCl | CH2Cl2
catalyst | manganese dioxide | 3.3 g | [O-2].[O-2].[Mn+4]
product | 2-Amino-5-iodo-3-methylbenzaldehyde | NC1=C(C=O)C=C(C=C1C)I | C8H8INO
